US06046213
To a slurry of lithium aluminum hydride (0.56 g, 14.76 mmol) in ether (35 mL) was added 1,3-diacetoxy-2,4-dimethylbenzene (the compound of Preparation 24, 1.65 g, 7.42 mmol in 40 mL of ether) via syringe. The mixture was stirred overnight; then it was carefully quenched with sodium sulfate decahydrate (excess). The mixture was dried with anhydrous sodium sulfate, filtered, and concentrated to give 0.62 g (62%) of 1,3-dihydroxy-2,4-dimethylbenzene as a waxy light yellow solid which had: NMR δ 6.83 (d, J=8 Hz, 1 H), 6.34 (d, J=8.1 Hz, 1 H), 4.71 (s, 2 H), 2.19 (s, 3 H), 2.17 (s, 3 H). There was also a small amount of an impurity observed in the NMR spectrum but the product was found to be suitable for use without further purification. The product was somewhat air sensitive and was used the same day it was synthesized.

reactant | lithium aluminum hydride | 14.76 mmol, 0.56 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,3-diacetoxy-2,4-dimethylbenzene | C(C)(=O)OC1=C(C(=C(C=C1)C)OC(C)=O)C | C12H14O4
solvent | ether | 35 mL | CCOCC | C4H10O
solvent | ether | 40 mL | CCOCC | C4H10O
product | 1,3-dihydroxy-2,4-dimethylbenzene | 0.62 g, 62% | OC1=C(C(=C(C=C1)C)O)C | C8H10O2
